US07612114B2
To a suspension of lithium aluminum hydride (1.5 g) in tetrahydrofuran (50 ml) under a nitrogen atmosphere was added 4-(2-piperidin-1-ylethoxy)benzoic acid ethyl ester (5.0 g) on an ice bath, and the solution was refluxed for 1 hour. Ammonia solution was added thereto on an ice bath, the solution was filtered through celite pad, then the solvent was evaporated in vacuo, and [4-(2-piperidin-1-ylethoxy)phenyl]methanol (3.5 g) was obtained. To a solution of this compound (1.7 g) in chloroform (30 ml) was added manganese(IV) oxide (7.5 g), the solution was stirred overnight at room temperature, then filtered, and the solvent was evaporated in vacuo to provide the title compound (1.7 g).

reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-piperidin-1-ylethoxy)benzoic acid ethyl ester | 5.0 g | C(C)OC(C1=CC=C(C=C1)OCCN1CCCCC1)=O | C16H23NO3
reactant | Ammonia | N | H3N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [4-(2-piperidin-1-ylethoxy)phenyl]methanol | 3.5 g | N1(CCCCC1)CCOC1=CC=C(C=C1)CO | C14H21NO2
